US08030302B2
Ethyl 1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate
To a solution of methyl 3-(4-fluorophenylamino)-3-oxopropanoate(10.1 g, 48 mmol) in EtOH (100 mL) is added trans-4-methoxy-3-buten-2-one (5.7 g, 57 mmol) and CH3ONa (3.1 g, 57 mmol). The mixture is heated at reflux overnight and then concentrated. The residue is purified by silica gel column chromatography eluting with PE:EtOAC (from 5:1 to 2:1) to give the product (2.1 g, 16% yield). MS (m/z): 276.1 (M+H).

reactant | methyl 3-(4-fluorophenylamino)-3-oxopropanoate | 48 mmol, 10.1 g | FC1=CC=C(C=C1)NC(CC(=O)OC)=O | C10H10FNO3
reactant | trans-4-methoxy-3-buten-2-one | 57 mmol, 5.7 g | CO/C=C/C(C)=O | C5H8O2
reactant | CH3ONa | 57 mmol, 3.1 g | CO[Na]
solvent | EtOH | 100 mL | CCO | C2H6O
product | Ethyl 1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate | 2.1 g, 16% yield | FC1=CC=C(C=C1)N1C(C(=CC=C1C)C(=O)OCC)=O | C15H14FNO3
